US06495542B1
To a solution of 2-methoxy-N-(2-methyl-1H-benzimidazol-4-yl)-4-(2,3,4,5-tetrahydro-1,5-benzothiazepin-5-yl)carbonylbenzamide (20 mg) in AcOH (1 ml), was added 30% aqueous H2O2 (1 ml), and the mixture was stirred for 4 hours. Saturated aqueous NaHCO3 was added to the reaction mixture, and the mixture was extracted with AcOEt, washed with brine and dried over Na2CO3. The solvent was removed under reduced pressure to give 2-methoxy-N-(2-methyl-1H-benzimidazol-4-yl)-4-(1-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepin-5-yl)carbonylbenzamide (20 mg).

reactant | 2-methoxy-N-(2-methyl-1H-benzimidazol-4-yl)-4-(2,3,4,5-tetrahydro-1,5-benzothiazepin-5-yl)carbonylbenzamide | 20 mg | COC1=C(C(=O)NC2=CC=CC=3NC(=NC32)C)C=CC(=C1)C(=O)N1CCCSC3=C1C=CC=C3 | C26H24N4O3S
reactant | H2O2 | 1 ml | OO | H2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | AcOH | 1 ml | CC(=O)O | C2H4O2
product | 2-methoxy-N-(2-methyl-1H-benzimidazol-4-yl)-4-(1-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepin-5-yl)carbonylbenzamide | 20 mg | COC1=C(C(=O)NC2=CC=CC=3NC(=NC32)C)C=CC(=C1)C(=O)N1CCCS(C3=C1C=CC=C3)=O | C26H24N4O4S
